US07951810B2
Step c: Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethenesulfonate
To a solution of (diethoxy-phosphoryl)-methanesulfonic acid ethyl ester (7.991 g, 0.03070 mol) in THF (100 mL), at −78° C. under an atmosphere of nitrogen, was added dropwise 2.5M n-butyllithium in hexane (13 mL), and the solution was stirred for 30 minutes. Freshly prepared 6-(6-chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]-dioxole-4-carbaldehyde (13.10 g, 0.03026 mol) in THF (100 mL) was added over 15 min at −78° C. The reaction was allowed to slowly warm to −10° C. over 4 hours with stirring. The reaction was quenched with water (400 mL) and 5M ammonium chloride in water (100 mL) and extracted with methylene chloride (600 mL). The organic phase was concentrated in vacuo and the residue was purified by flash chromatography (30 to 100% EtOAc:hexanes) to yield the product as a foam (10.5 g, 81%).

reactant | (diethoxy-phosphoryl)-methanesulfonic acid ethyl ester | 0.03070 mol, 7.991 g | C(C)OS(=O)(=O)CP(=O)(OCC)OCC | C7H17O6PS
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 6-(6-chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]-dioxole-4-carbaldehyde | 0.03026 mol, 13.10 g | ClC1=C2N=CN(C2=NC=N1)C1OC(C2C1OC(O2)(C)C)C=O | C13H13ClN4O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | 13 mL | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Ethyl 2-[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]ethenesulfonate | 10.5 g, 81% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C=CS(=O)(=O)OCC | C16H19ClN4O6S
